US05527934
To a 100 ml, three neck, round bottomed flask equipped with a dropping funnel and a reflux condenser, 6 g(0.03 mole) of bisdichlorosilylmethane, 6.5 g(0.08 mole) of allyl chloride, and 60 μl of 1% chloroplatinic acid solution in isopropanol, at reflux using a 80° C. oil bath for 3 hours under the dry nitrogen atmosphere. Gas chromatography analysis showed that no bisdichlorosilylmethane was left. Vacuum distillation of the reaction products gave 3.85 g(110°-112° C./0.05 mmHg) of bis{(3-chloropropyl)dichlorosilyl]methane in 35.6% yield. Besides this product, 4.10 g of (trichlorosilyl){(3-chloropropyl)silyl}methane was also obtained in 38.0% yield and (propyldichlorosilyl){(3-chloropropyl)dichlorosilyl}methane.

reactant | bisdichlorosilylmethane | 0.03 mole, 6 g | Cl[SiH](Cl)C[SiH](Cl)Cl | CH4Cl4Si2
reactant | allyl chloride | 0.08 mole, 6.5 g | C(C=C)Cl | C3H5Cl
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 60 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis{(3-chloropropyl)dichlorosilyl]methane | 3.85 g, 35.6% yield | ClCCC[Si](Cl)(Cl)C[Si](CCCCl)(Cl)Cl | C7H14Cl6Si2
